US04937251
6-[3-(2-Pyridinyl)propoxy]-hex-4-yn-1-ol
n-Butyl lithium (1.57M in hexane, 35 ml) was added to a stirred solution of 2-[3-[(2-propynyl)oxy]propyl]pyridine (9.0 g) in dry THF (60 ml) at -78° under nitrogen. Boron trifluoride etherate (6.8 ml) was added and the mixture was stirred at -78° for 30 min. Oxetane (10 ml) was added and after 2 h at -78°, the mixture was treated with more oxetane (10 ml). The dark mixture was allowed to warm to 0°, saturated ammonium chloride (100 ml) was added and the mixture was extracted with ethyl acetate (2×50 ml). The organic layer was washed with brine, dried and concentrated to a dark oil which was purified by FCC eluting with ether to give the title compound as an orange oil (5.1 g), t.l.c. (ethyl acetate-triethylamine 99:1) Rf 0.35.

reactant | n-Butyl lithium | 1.57M, 35 ml | C(CCC)[Li]
reactant | 2-[3-[(2-propynyl)oxy]propyl]pyridine | 9.0 g | C(C#C)OCCCC1=NC=CC=C1 | C11H13NO
reactant | Boron trifluoride etherate | 6.8 ml | B(F)(F)F.CCOCC
reactant | Oxetane | 10 ml | O1CCC1 | C3H6O
reactant | oxetane | 10 ml | O1CCC1 | C3H6O
reactant | ammonium chloride | 100 ml | [Cl-].[NH4+]
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | 6-[3-(2-Pyridinyl)propoxy]-hex-4-yn-1-ol | 5.1 g | N1=C(C=CC=C1)CCCOCC#CCCCO | C14H19NO2
